US04666927
Preparation of 1,8-di-(3-hydroxy-2-methyl-4-oxopyrid-1-yl)octane and other related compounds
3-Benzyloxy-2-methyl-4-pyrone (0.066 moles) and 1,8-diaminooctane (0.022 moles) are mixed in 2:1 v/v aqueous methanol (300 ml), solid sodium hydroxide (2 g) is added, and the mixture is heated on a steam bath for 5 hours. The mixture is allowed to cool and an aliquot is taken, acidified to pH 2 with concentrated hydrochloric acid and the solvent removed on the rotary evaporator to give a solid residue. This residue is checked for completion of the reaction through its n.m.r. spectrum, the presence of protons exchangeable at ca δ=8.3 (d6DMSO) showing that the reaction is not complete. If this is the case, refluxing is continued until the solid obtained from an aliquot shows no such protons. On complete reaction being found to have occurred, the mixture is cooled and acidified to pH 2 with concentrated hydrochloric acid, any precipitate formed at this stage being dissolved by the addition of methanol to the mixture. Palladium/carbon catalyst is then added and the solution is hydrogenated at room temperature and atmospheric pressure in order to effect debenzylation. The catalyst is removed by filtration and the solvent by rotary evaporation, the resulting solid then being recrystallised from water to give the title compound(1) in 40% yield as a white solid of m.p. 297°-300° dec; γmax (nujol) 1340 and 1620 cm-1 ; δ(d6DMSO/D2O), 1.5 (m, 12H), 2.5 (s, 6H), 4.3 (m, 4H), 7.1 (d, 2H) and 8.1 (d, 2H); m/e 360.

reactant | 3-Benzyloxy-2-methyl-4-pyrone | 0.066 moles | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | 1,8-diaminooctane | 0.022 moles | NCCCCCCCCN | C8H20N2
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | Palladium/carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 1,8-di-(3-hydroxy-2-methyl-4-oxopyrid-1-yl)octane | OC1=C(N(C=CC1=O)CCCCCCCCN1C(=C(C(C=C1)=O)O)C)C | C20H28N2O4
